US07307094B2
A mixture of 6-bromo-2-phenylbenzoxazole-4-carboxylic acid (82 mg, 0.26 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (99 mg, 0.52 mmol), 1-hydroxybenzotriazole (70 mg, 0.52 mmol) and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane (48 mg, 0.31 mmol) in DMF (5 mL) was stirred 10 min at room temperature, then triethylamine (0.10 mL, 1.03 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with diethyl ether (50 mL) and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×50 mL). The combined organics were dried (Na2SO4), filtered and concentrated under reduced pressure. During the concentration, a white solid was crashed out. The solid was isolated, washed with ether and dried under high vacuum to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-bromo-2-phenylbenzoxazole-4-carboxamide (40 mg, 34%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 8.89 (d, J=7.3 Hz, 1H), 8.34 (d, J=1.8 Hz, 1H), 8.25-8.20 (m, 2H), 7.86 (d, J=1.8 Hz, 1H), 7.65-7.55 (m, 3H), 4.60-4.52 (m, 1H), 3.12 (d, J=10.8 Hz, 2H), 2.70-2.60 (m, 2H), 2.54 (s, 3H), 2.20-1.95 (m, 2H), 1.62-1.52 (m, 2H), 1.50-1.45 (m, 2H), 1.20-1.10 (m, 2H); MS (ESI+) m/z 454 (M+H); HPLC>99% (AUC), tR=13.52 min.

reactant | 6-bromo-2-phenylbenzoxazole-4-carboxylic acid | 0.26 mmol, 82 mg | BrC=1C=C2C(N=C(O2)C2=CC=CC=C2)=C(C1)C(=O)O | C14H8BrNO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.52 mmol, 99 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.52 mmol, 70 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane | 0.31 mmol, 48 mg | NC1CC2CCCC(C1)N2C | C9H18N2
reactant | triethylamine | 1.03 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-bromo-2-phenylbenzoxazole-4-carboxamide | 40 mg, 34% | CN1C2CC(CC1CCC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=CC=C1)Br | C23H24BrN3O2
